US04337256
Metallic sodium (1.15 g) was added to 100 ml of liquid ammonia, and 1.3 g of acetonitrile and 2.39 g of 1-phenyl-5-chloroisoquinoline were added to the solution. A small amount of iron trichloride was added, and the reaction was performed for 5 hours. After the reaction, ammonia was distilled off, and ice water was carefully added to the residue. The resulting oily product was extracted with ether, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was chromatographed to afford 1-phenylisoquinoline-5-acetonitrile as an oil.

reactant | sodium | 1.15 g | [Na] | Na
reactant | ammonia | N | H3N
reactant | 1-phenyl-5-chloroisoquinoline | 2.39 g | C1(=CC=CC=C1)C1=NC=CC2=C(C=CC=C12)Cl | C15H10ClN
reactant | acetonitrile | 1.3 g | C(C)#N | C2H3N
catalyst | iron trichloride | [Fe](Cl)(Cl)Cl
product | 1-phenylisoquinoline-5-acetonitrile | C1(=CC=CC=C1)C1=NC=CC=2C(=CC=CC12)CC#N | C17H12N2
